US06017919
10% Palladium-carbon catalyst (water content 50%, 42 mg) was added to a solution of 2-(2-benzyloxyphenyl)ethylamine (415 mg, 1.826 mmol, 1.0 eq) in THF (10 ml), and the mixture was stirred for 2 hours at room temperature in a stream of hydrogen. The reaction mixture was filtered through Celite, and the filtrate was concentrated under reduced pressure to give 2-(2-hydroxyphenyl)ethylamine (230 mg, 91.8%).

reactant | 2-(2-benzyloxyphenyl)ethylamine | 1.826 mmol, 415 mg, 1.0 eq | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCN | C15H17NO
reactant | hydrogen | [H][H] | H2
catalyst | Palladium-carbon | 42 mg | [C].[Pd]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(2-hydroxyphenyl)ethylamine | 230 mg, 91.8% | OC1=C(C=CC=C1)CCN | C8H11NO
